US07704996B2
To a solution of 2-phenyl-3-pyrrolidin-1-yl propan-1-ol (3.4 mmol) in THF (10 mL) is successively added phthalimide (4.1 mmol), triphenylphosphine (5.1 mmol) and diethyl azodicarboxylate (5.1 mmol) at 0° C., then the mixture is stirred at 0° C. for 1.5 h. After dilution with water, the mixture is acidified to pH<3 with aq. KHSO4 then washed with AcOEt. The aqueous layer basified to pH>11 with sat aq. NaHCO3 then extracted with AcOEt. The organic extracts are washed with water and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue is triturated with ether to give 2-(2-phenyl-3-pyrrolidin-1-yl propyl)isoindole-1,3-dione, which is directly used for the next reaction without further purification.

reactant | 2-phenyl-3-pyrrolidin-1-yl propan-1-ol | 3.4 mmol | C1(=CC=CC=C1)C(CO)CN1CCCC1 | C13H19NO
reactant | phthalimide | 4.1 mmol | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 5.1 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5.1 mmol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(2-phenyl-3-pyrrolidin-1-yl propyl)isoindole-1,3-dione | C1(=CC=CC=C1)C(CN1C(C2=CC=CC=C2C1=O)=O)CN1CCCC1 | C21H22N2O2
